US04564694
In a flask, 600 g of 2-octanone (CH3 (CH2)5COCH3), 500 g of tert-butanol ((CH3)3COH) and 30 g of a KOH/CH3OH solution were mixed and then stirred under ice-cooling. To the resulting solution was added dropwise a solution of 375 g of acrylonitrile (CH2 =CHCN) in 400 g of (CH3)3COH while maintaining the temperature at 5° C. or lower. After completion of the addition, the resulting solution was further stirred continuously for 1 hour, after which this reaction solution was made neutral by addition of dilute hydrochloric acid. The deposited salt was separated by filtration, and the residue was distilled under reduced pressure to obtain 3-acetyl-1,5-dicyano-3-pentylpentane.

reactant | 2-octanone | 600 g | CC(CCCCCC)=O | C8H16O
reactant | KOH CH3OH | 30 g | [OH-].[K+].CO
reactant | acrylonitrile | 375 g | C(C=C)#N | C3H3N
reactant | hydrochloric acid | Cl | ClH
solvent | (CH3)3COH | 400 g | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 500 g | C(C)(C)(C)O | C4H10O
product | 3-acetyl-1,5-dicyano-3-pentylpentane | C(C)(=O)C(CCC#N)(CCC#N)CCCCC | C14H22N2O
